US07655961B2
Titanium bis(acetylacetone)
To a dried vial fitted with a stir bar and septum cap was added titanium tetraisopropoxide (2.8573 g, 1.005 mmol) then 2,4-pentanedione (1.0257 g, 1.0245 mmol), and quickly cooled in an ice water bath. The dark yellow liquid was stirred overnight at room temperature. The solution was then diluted with 32.4 ml ethanol (200 proof).

reactant | titanium tetraisopropoxide | 1.005 mmol, 2.8573 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
reactant | 2,4-pentanedione | 1.0245 mmol, 1.0257 g | CC(CC(C)=O)=O | C5H8O2
solvent | ethanol | 32.4 ml | C(C)O | C2H6O
product | Titanium bis(acetylacetone) | C(C)(=O)CC(C)=O.C(C)(=O)CC(C)=O.[Ti] | InChI=1S/2C5H8O2.Ti/c2*1-4(6)3-5(2)7;/h2*3H2,1-2H3;
